US05541032
Preparation of 4-phenylphenacylpyridinium bromide
The title compound was prepared similarly to Example 1 from 4-phenylphenacyl bromide and pyridine in a yield of 95%.

reactant | 4-phenylphenacyl bromide | C1(=CC=CC=C1)C1=CC=C(C(CBr)=O)C=C1 | C14H11BrO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-phenylphenacylpyridinium bromide | yield of 95% | [Br-].C1(=CC=CC=C1)C1=CC=C(C(C[N+]2=CC=CC=C2)=O)C=C1 | InChI=1S/C19H16NO.BrH/c21-19(15-20-13-5-2-6-14-20)18-11-9-17(10-12-18)16-7-3-1-4-8-16;/h1-14H,15H2;1H/q+1;/p-1
